US07834049B2
3-Chloro-N-(3-chloro-4-hydroxy-1H-indole-7-yl)benzenesulfonamide
220 mg (0.47 mmol) of N-(4-tert-butyldimethylsilyloxy-3-chloro-1H-indole-7-yl)-3-chlorobenzenesulfonamide synthesized in the same manner as in Synthetic Example 1a was added to a mixed solution (2 ml) of an aqueous 40% hydrogen fluoride solution/acetonitrile (1:10). After stirred at room temperature overnight, water was added thereto and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated. Then, the residue was purified by silica gel column chromatography, to give 141 mg of the title compound.

reactant | N-(4-tert-butyldimethylsilyloxy-3-chloro-1H-indole-7-yl)-3-chlorobenzenesulfonamide | 0.47 mmol, 220 mg | [Si](C)(C)(C(C)(C)C)OC1=C2C(=CNC2=C(C=C1)NS(=O)(=O)C1=CC(=CC=C1)Cl)Cl | C20H24Cl2N2O3SSi
reactant | hydrogen fluoride | F | FH
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-Chloro-N-(3-chloro-4-hydroxy-1H-indole-7-yl)benzenesulfonamide | 141 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC=1C=CC(=C2C(=CNC12)Cl)O | C14H10Cl2N2O3S
